US04703073
N,N-Bis-(p-dodecylbenzyl)hydroxylamine
The procedure of Example 1 is repeated using 16.0 g of sodium carbonate, 2.57 g of hydroxylamine hydrochloride and 21.83 g of p-dodecylbenzyl chloride in 75 ml of dimethylformamide kept at 50°-55° C. overnight under nitrogen. The product is isolated as a light brown oil.

reactant | sodium carbonate | 16.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 2.57 g | Cl.NO
reactant | p-dodecylbenzyl chloride | 21.83 g | C(CCCCCCCCCCC)C1=CC=C(CCl)C=C1 | C19H31Cl
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | N,N-Bis-(p-dodecylbenzyl)hydroxylamine | C(CCCCCCCCCCC)C1=CC=C(CN(O)CC2=CC=C(C=C2)CCCCCCCCCCCC)C=C1 | C38H63NO
